US09029388B2
B) 1-(2-Chloropyridin-3-yl)propan-1-one
2-Chloro-N-methoxy-N-methylpyridine-3-carboxamide (1.0 g) was dissolved in THF (30 ml), 3 Methylmagnesium bromide-diethyl ether solution (2.0 ml) was added dropwise at room temperature, and the mixture was stirred at 50° C. for 1 hr. The reaction mixture was diluted with 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (630 mg).

reactant | 2-Chloro-N-methoxy-N-methylpyridine-3-carboxamide | 1.0 g | ClC1=NC=CC=C1C(=O)N(C)OC | C8H9ClN2O2
reactant | Methylmagnesium bromide diethyl ether | 2.0 ml | C[Mg]Br.C(C)OCC
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | hydrochloric acid | 1 M | Cl | ClH
product | 1-(2-Chloropyridin-3-yl)propan-1-one | 630 mg | ClC1=NC=CC=C1C(CC)=O | C8H8ClNO
